US05958918
F. [1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-yl]carbamic acid tert-butyl ester
To a solution of (2-oxopyrrolidin-3-(S)-yl)carbamic acid tert-butyl ester (3.2 g, 16 mmol) in 80 mL of THF:DMF (10:1) at 0° C. is added 4-bromomethylthiophene-2-carbonitrile (3.23 g, 16 mmol) and sodium hydride (60%) (0.67 g, 16.8 mmol). After addition, the solution is allowed to warm to ambient temperatures. After 2 hours, the solution is quenched by the addition of sat NH4Cl. The solution is diluted with H2O and EtOAc. The layers are separated. The organic layer is washed with H2O and sat. NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with gradient of 20% EtOAc/CH2Cl2 to 30% EtOAc/CH2Cl2 to afford the title compound (4 g, 13.8 mmol) as a white solid.

reactant | (2-oxopyrrolidin-3-(S)-yl)carbamic acid tert-butyl ester | 16 mmol, 3.2 g | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | 4-bromomethylthiophene-2-carbonitrile | 16 mmol, 3.23 g | BrCC=1C=C(SC1)C#N | C6H4BrNS
reactant | sodium hydride | 16.8 mmol, 0.67 g | [H-].[Na+]
solvent | THF DMF | 80 mL | C1CCOC1.CN(C)C=O
product | [1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-yl]carbamic acid tert-butyl ester | 13.8 mmol, 4 g | C(C)(C)(C)OC(NC1C(N(CC1)CC1=CSC(=C1)C#N)=O)=O | C15H19N3O3S
